US07981883B2
7.b. Synthesis of 3-(3-methoxyphenyl)-1-oxa-2-azaspiro[4.5]dec-2-ene-8-carboxylic acid ethyl ester
A solution of 1-chloro-1-hydroxyiminomethyl-3-methoxybenzene (31 g, 167 mmol) in DCM (50 ml) was slowly added dropwise to a solution of 4-methylenecyclohexanecarboxylic acid ethyl ester (28 g, 167 mmol) in DCM (950 ml) at 0° C. Subsequently, a solution of triethylamine (50 ml) in DCM (50 ml) was slowly added dropwise at 0° C. and the resulting mixture was stirred overnight at RT. The reaction mixture was diluted with water (500 ml). The combined organic phases were washed with 10% aq. citric acid solution (800 ml) and sat. aq. NaCl solution (500 ml), dried over sodium sulphate and the solvent was removed under vacuum. The desired product 3-(3-methoxyphenyl)-1-oxa-2-azaspiro[4.5]dec-2-ene-8-carboxylic acid ethyl ester (51 g) was reacted without further purification.

reactant | 1-chloro-1-hydroxyiminomethyl-3-methoxybenzene | 167 mmol, 31 g | ClC1(CC(=CC=C1)OC)C=NO | C8H10ClNO2
reactant | 4-methylenecyclohexanecarboxylic acid ethyl ester | 167 mmol, 28 g | C(C)OC(=O)C1CCC(CC1)=C | C10H16O2
reactant | triethylamine | 50 ml | C(C)N(CC)CC | C6H15N
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 950 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
solvent | water | 500 ml | O | H2O
product | 3-(3-methoxyphenyl)-1-oxa-2-azaspiro[4.5]dec-2-ene-8-carboxylic acid ethyl ester | C(C)OC(=O)C1CCC2(CC(=NO2)C2=CC(=CC=C2)OC)CC1 | C18H23NO4
